Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Codeine / Aspirin / Vancomycin
 
Attending: ___.
 
Chief Complaint:
Prosthetic aortic valve insufficiency, Prosthetic valve aortic 
stenosis

 
Major Surgical or Invasive Procedure:
Re-do sternotomy, Bentall procedure with a 23-mm ___ 
freestyle graft with coronary button reimplantation on ___

 
History of Present Illness:
The patient is a ___ woman with a history of bicuspid 
aortic valve who underwent aortic valve replacement with a 19-mm 
pericardial valve back in ___ by Dr. ___.  The patient 
did well initially but presented with prosthetic valve 
endocarditis approximately 6 months ago prior to presentation. 
She was treated with appropriate antibiotic regimen for her 
prosthetic valve endocarditis but developed acute renal failure 
secondary to gentamicin toxicity. The patient therefore was felt 
to need to recover from the gentamicin
nephrotoxicity prior to proceeding with re-do aortic valve 
replacement in the form of a Bentall procedure using the 
___ freestyle graft. The patient's creatinine returned 
almost to baseline and she was cleared by renal to proceed
with re-do surgery.
 
Past Medical History:
s/p AVR for bicuspid aortic valve ___  
Hypertension  
Hypercholesterolemia  
s/p partial hysterectomy  
Anxiety/Depression  
Arthritis spine/hip  
Osteoporosis  
Hx of GI bleed 
ALLERGIES:  
Codeine->hives  
"ASA"->upset stomach  
Penicillin causes itch.  

 
Social History:
___
Family History:
Family history non-contributory.  
 
Physical Exam:
Pulse:84  Resp:16  O2 sat: 100% RA
B/P  Right:147/85    Left: 
Height:     Weight:

General:AAO x 3 in NAD
Skin: Dry [x] intact [x] Well healed sternal incision
HEENT: PERRLA [x] EOMI []
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur IV/VI SEM
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+ [x]
Extremities: Warm [x], well-perfused [x]  Edema Varicosities:
None []
Neuro: Grossly intact
Pulses:
Femoral      Right:2+   Left:2+
DP           Right:2+   Left:2+
___           Right:2+   Left:2+
Radial       Right:   Left:

Carotid Bruit        Right:    Left:
                     transmitted murmur  

 
Pertinent Results:
___ ECHOCARDIOGRAPHY REPORT
___ at 11:57:39 AM       
Findings  
LEFT ATRIUM: No spontaneous echo contrast or thrombus in the 
___ or the RA/RAA. Good (>20 cm/s) ___ ejection velocity. All 
four pulmonary veins identified and enter the left atrium. 
RIGHT ATRIUM/INTERATRIAL SEPTUM: A catheter or pacing wire is 
seen in the RA and extending into the RV. No ASD by 2D or color 
Doppler. 
LEFT VENTRICLE: Wall thickness and cavity ___ were 
obtained from 2D images. Normal LV wall thickness, cavity size, 
and global systolic function (LVEF>55%). 
RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 
AORTA: Focal calcifications in aortic root. Mildly dilated 
ascending aorta. Simple atheroma in aortic arch. Normal 
descending aorta diameter. Simple atheroma in descending aorta. 
AORTIC VALVE: Bioprosthetic aortic valve prosthesis (AVR). 
Thickened AVR leaflets. Increased AVR gradient. No masses or 
vegetations on aortic valve. Severe AS (area 0.8-1.0cm2). Severe 
(4+) AR. 
MITRAL VALVE: Mildly thickened mitral valve leaflets. Mild 
mitral annular calcification. No MS. ___ MR. 
___ VALVE: Normal tricuspid valve leaflets with trivial 
TR. 
PULMONIC VALVE/PULMONARY ARTERY: Pulmonic valve not well seen. 
Conclusions  
PRE BYPASS No spontaneous echo contrast or thrombus is seen in 
the body of the left atrium/left atrial appendage or the body of 
the right atrium/right atrial appendage. No atrial septal defect 
is seen by 2D or color Doppler. Left ventricular wall thickness, 
cavity size, and global systolic function are normal (LVEF>55%). 
Right ventricular chamber size and free wall motion are normal. 
The ascending aorta is mildly dilated. There are simple atheroma 
in the aortic arch. There are simple atheroma in the descending 
thoracic aorta. A bioprosthetic aortic valve prosthesis is 
present. The valve apperas well seated. The prosthetic aortic 
valve leaflets are thickened. The transaortic gradient is higher 
than expected for this type of prosthesis. No masses or 
vegetations are seen on the aortic valve. There is severe aortic 
valve stenosis (valve area 0.8-1.0cm2). Severe (4+) aortic 
regurgitation is seen. The regurgitation appears valvular. The 
mitral valve leaflets are mildly thickened. Trivial mitral 
regurgitation is seen. 
POST BYPASS The patient is being A paced. There is normal 
biventricular systolic function. There is a stentless 
bioprosthetic aortic valve and ascending aortic xenograft in 
situ. Very trace valvular regurgitation is visible. The maximum 
gradient through the valve is about 23 mm Hg with a mean of 14 
mmHg at a cardiac output of 3.7 liters per minute. The effective 
orifice area of the valve is 1.7 cm2. The thoracic aorta appears 
intact. The rest of the exam is unchanged from the pre bypass 
study.   
___ 03:15PM   UREA N-26* CREAT-1.3* CHLORIDE-115* TOTAL 
CO2-22
___ 03:33PM   GLUCOSE-95 NA+-138 K+-4.4
___ 03:15PM   WBC-16.5* RBC-3.55* HGB-10.5* HCT-31.8* 
MCV-90 MCH-29.7 MCHC-33.2 RDW-13.4
___ 03:15PM   PLT COUNT-165
___ 03:15PM   ___ PTT-34.8 ___
___ 02:17PM   ___ 04:26AM BLOOD WBC-11.4* RBC-2.98* Hgb-8.9* Hct-26.5* 
MCV-89 MCH-29.8 MCHC-33.4 RDW-14.1 Plt ___
___ 04:26AM BLOOD Plt ___
___ 03:15PM BLOOD ___ PTT-34.8 ___
___ 04:26AM BLOOD Glucose-100 UreaN-24* Creat-1.2* Na-141 
K-3.7 Cl-103 HCO3-33* AnGap-9
 CHEST (PORTABLE AP)   Clip # ___   
 eval for PTX  

Wet Read: ___ SAT ___ 1:49 ___ 
no PTX post removal of chest tubes. right IJ out. stable 
retrocardiac 
atlectesis. 

Final Report 
PORTABLE CHEST, ___ 
 CLINICAL INFORMATION: Chest PA portal. 
FINDINGS: Comparison is made to the prior study from ___. 
Multiple chest tubes and drains have been removed. Right PICC 
remains. Right IJ catheter has been removed. No pneumothorax 
identified. There is persistent mild atelectasis at the left 
lung base. There is a small left pleural effusion. Heart is 
mildly enlarged. There is patchy airspace opacity in the right 
mid lung zone as well. 
  The study and the report were reviewed by the staff 
radiologist. 
___. ___ 
___. ___ 
___ 8:25 AM 
  

 
Brief Hospital Course:
This a ___ woman with a history of bicuspid aortic valve 
who underwent aortic valve replacement with a 19-mm pericardial 
valve in ___.  The patient did well initially but presented 
with prosthetic valve endocarditis approximately 6 months ago. 
She was treated with appropriate antibiotic regimen for her 
prosthetic valve endocarditis but developed acute renal failure 
secondary to gentamicin toxicity. She recovered from the 
gentamicin nephrotoxicity prior to proceeding with re-do aortic 
valve replacement with a creatinine of 1.6 at the time of 
surgery.  She was seen by the renal team and cleared 
preoperatively. She presented as a same day admission on ___ 
and underwent a re-do sternotomy and Bentall procedure with a 
23-mm ___ freestyle graft with coronary button 
reimplantation.  See operative note for full details.  She was 
transferred to the intensive care unit in stable condition.  She 
was started on dexmedetomidine post operatively and extubated on 
post operative morning. She did have an episode of rapid atrial 
fibrillation on postoperative night and converted to sinus 
rhythm in the ___.  She stayed in sinus rhythm for the 
remainder of her hospital course on po Lopressor and Amiodarone. 
 Chest tubes and pacing wires were removed per cardiac surgery 
protocol.  She was transferred to the SDU in stable condition.  
Once on the floor, she continued to work with physical therapy 
for increased strength and endurance.  She initially had no gag 
on postoperative day 1 but was tolerating a full po diet at the 
time of discharge with no signs of aspiration.  She was given 
Plavix instead of aspirin due to an aspirin allergy.  It was 
felt that she was safe for transfer to rehab on post operative 
day 4.

 
Medications on Admission:
Chlorzoxazone 500 mg po TID PRN:muscle pain 
Crestor 
Lamotrigine 50mg po daily 
Lorazepam 0.5mg po qHS PRN:insomnia
Olmesartan 20mg po daily 
Raloxifene 60 mg po daily 
Sertraline 150mg po daily 
Allergies: Codeine - hives, Aspirin - rash; Vancomycin- ? rash

 
Discharge Medications:
1. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).
Disp:*60 Tablet(s)* Refills:*2*
2. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
3. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
4. Sertraline 100 mg Tablet Sig: 1.5 Tablets PO once a day.
Disp:*45 Tablet(s)* Refills:*2*
5. Lamotrigine 25 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).
Disp:*60 Tablet(s)* Refills:*2*
6. Rosuvastatin 5 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
7. Tramadol 50 mg Tablet Sig: One (1) Tablet PO every ___ hours 
as needed for pain.
Disp:*50 Tablet(s)* Refills:*0*
8. Potassium Chloride 10 mEq Tablet Sustained Release Sig: Two 
(2) Tablet Sustained Release PO once a day for 2 weeks.
Disp:*28 Tablet Sustained Release(s)* Refills:*0*
9. Amiodarone 200 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily): 400mg QD x 7days then 200mg QD.
Disp:*40 Tablet(s)* Refills:*2*
10. Furosemide 20 mg Tablet Sig: One (1) Tablet PO once a day 
for 2 weeks.
Disp:*14 Tablet(s)* Refills:*0*
11. Raloxifene 60 mg Tablet Sig: One (1) Tablet PO once a day: 
resume preop schedule.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Prosthetic valve endocarditis, prosthetic aortic valve 
insufficiency, prosthetic valve aortic stenosis-status post 
aortic valve replacement
PMHx: Biscuspid Aortic Valve, Aortic Stenosis, Hypertension, 
Depression, Peptic Ulcer Disease, Chronic bilat ankle pain, 
Uterine fibroids, s/p Bioprosthetic Aortic Valve Replacement 
___, s/p Partial Hysteretomy 

 
Discharge Condition:
Alert and oriented x3 nonfocal 
Ambulating, gait steady
Sternal pain managed with percocet prn 
Sternal wound-clean and dry healing well, no erythema

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month until follow up with 
surgeon
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge

 
Followup Instructions:
___